US08492582B2
A 4 mol/L aqueous solution of sodium hydroxide (2.0 mL) was added to a methanol (10 mL) solution of methyl 5-(furan-3-yl)pyridine-3-carboxylate (0.54 g) at room temperature, followed by stirring at the same temperature for 2 hours and 50 minutes. A 10% aqueous solution of citric acid (8 mL) was added to the reaction mixture at room temperature, and the solvent was evaporated under reduced pressure. Water was added to the obtained residue, and the solid substance was collected by filtration to obtain 0.33 g of 5-(furan-3-yl)pyridine-3-carboxylic acid as a light yellow solid.

reactant | sodium hydroxide | 2.0 mL | [OH-].[Na+]
reactant | methyl 5-(furan-3-yl)pyridine-3-carboxylate | 0.54 g | O1C=C(C=C1)C=1C=C(C=NC1)C(=O)OC | C11H9NO3
reactant | citric acid | 8 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 10 mL | CO | CH4O
product | 5-(furan-3-yl)pyridine-3-carboxylic acid | 0.33 g | O1C=C(C=C1)C=1C=C(C=NC1)C(=O)O | C10H7NO3
